US05834471
N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-cyclohexylbenzamide
4-Cyclohexylbenzoic acid (300 mg, 1.5 mmol) was heated at reflux with thionyl chloride (2 ml) and toluene (40 ml) for 2 h, and then evaporated to dryness under reduced pressure. 4-Methoxy-3-(4-methyl-1-piperazinyl)phenylamine (325 mg, 1.5 mmol) in dry dichloromethane (40 ml) was added with triethylamine (2 ml) and the mixture stirred for 1 h. The solution was partitioned between dichloromethane (40 ml) and saturated aqueous potassium carbonate (40 ml), the organic solution dried (sodium sulphate) and evaporated to dryness under reduced pressure to afford an oil, which was purified by flash column chromatography (silica, chloroform/methanol 5%) to afford the title compound (561 mg, 92%) which was crystallised from methanol/diethyl ether as the oxalate salt m.p. 117°-119° C.

reactant | 4-Cyclohexylbenzoic acid | 1.5 mmol, 300 mg | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-Methoxy-3-(4-methyl-1-piperazinyl)phenylamine | 1.5 mmol, 325 mg | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-cyclohexylbenzamide | 561 mg, 92% | COC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C1CCCCC1)=O)N1CCN(CC1)C | C25H33N3O2
